US08377923B2
Zinc cyanide (118 mg), potassium hydroxide (75 mg) and tetrakis(triphenylphosphine)palladium (0) (290 mg) were sequentially added to a solution of 3-(3-bromophenyl)-4-methyl-5-[1-methyl-1-(2,4,6-trifluorophenoxy)ethyl]-4H-1,2,4-triazole (356 mg) in NMP (5 ml) under an argon atmosphere, followed by stirring at 100° C. for 3 hours. Chloroform and water were added to the reaction solution, the precipitated solid was separated by celite filtration, followed by extraction. The organic layer was washed with a 1M aqueous sodium hydroxide solution and saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel chromatography (hexane:ethyl acetate=100:0 to 0:100), and the solvent was evaporated under reduced pressure. The residue was solidified with diisopropylether and washed under heating to obtain, as a colorless powdery solid, 3-{4-methyl-5-[1-methyl-1-(2,4,6-trifluorophenoxy)ethyl]-4H-1,2,4-triazol-3-yl}benzonitrile (238 mg).

reactant | potassium hydroxide | 75 mg | [OH-].[K+]
reactant | 3-(3-bromophenyl)-4-methyl-5-[1-methyl-1-(2,4,6-trifluorophenoxy)ethyl]-4H-1,2,4-triazole | 356 mg | BrC=1C=C(C=CC1)C1=NN=C(N1C)C(C)(OC1=C(C=C(C=C1F)F)F)C | C18H15BrF3N3O
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | water | O | H2O
reactant | NMP | 5 ml | CN1CCCC1=O | C5H9NO
catalyst | Zinc cyanide | 118 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium | 290 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-{4-methyl-5-[1-methyl-1-(2,4,6-trifluorophenoxy)ethyl]-4H-1,2,4-triazol-3-yl}benzonitrile | 238 mg | CN1C(=NN=C1C(C)(OC1=C(C=C(C=C1F)F)F)C)C=1C=C(C#N)C=CC1 | C19H15F3N4O
